US08097759B2
5-Bromo-N-[5-bromo-4-(trifluoromethyl)thiazol-2-yl]-2-hydroxybenzamide (Compound No. 182)
Using 5-bromosalicylic acid and 2-amino-5-bromo-4-(trifluoromethyl)thiazole as the raw materials, the same operation as the example 16 gave the title compound. (2-Amino-5-bromo-4-(trifluoromethyl)thiazole: refer to J. Heterocycl. Chem., 1991, 28, 1017.)

reactant | 5-bromosalicylic acid | BrC1=CC=C(C(C(=O)O)=C1)O | C7H5BrO3
reactant | 2-amino-5-bromo-4-(trifluoromethyl)thiazole | NC=1SC(=C(N1)C(F)(F)F)Br | C4H2BrF3N2S
product | 5-Bromo-N-[5-bromo-4-(trifluoromethyl)thiazol-2-yl]-2-hydroxybenzamide | BrC=1C=CC(=C(C(=O)NC=2SC(=C(N2)C(F)(F)F)Br)C1)O | C11H5Br2F3N2O2S
